US04255432
To a mechanically stirred mixture of 18.3 g (69.7 mmol) triphenylphosphine and 200 ml acetonitrile, 11.15 g (69.7 mmol) bromine is added dropwise over 20 minutes. The mixture is stirred 20 minutes at 0° and the ice bath is removed. A solution of 12.1 g (63.4 mmol) 6-methoxy-3-(2-hydroxyethyl)indole in 60 ml acetonitrile is added over 30 minutes. After stirring 2 hours at room temperature the mixture is diluted with 250 ml diethyl ether. The liquid is decanted from precipitated tar. The residue is washed with an additional 250 ml diethyl ether. The volume of the ethereal extracts is reduced to about 60 ml and the solution is filtered through 75 g silica gel with diethyl ether. The solvent is removed to yield 6-methoxy-3-(2-bromoethyl)indole, 4.1 g, yellow waxy solid, mp 98°-101°, which turns green on standing.

reactant | triphenylphosphine | 69.7 mmol, 18.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 69.7 mmol, 11.15 g | BrBr | Br2
reactant | 6-methoxy-3-(2-hydroxyethyl)indole | 63.4 mmol, 12.1 g | COC1=CC=C2C(=CNC2=C1)CCO | C11H13NO2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 6-methoxy-3-(2-bromoethyl)indole | COC1=CC=C2C(=CNC2=C1)CCBr | C11H12BrNO
